US04326071
4-Amino-4-trifluoromethylbutyric acid
To a solution of 30 mmole of 4-trifluoromethyl-4-oxobutyric acid ethyl ester in 20 ml of ethanol cooled to 0° C. is added 30 mmole of sodium borohydride. The reaction mixture is stirred at 0° C. for 4 hours then acidified with M HCl to a pH of 1. The solvent is evaporated under reduced pressure and the residue is partitioned between water and ether. The organic phase is washed with brine, dried over magnesium sulfate and concentrated to give 4-trifluoromethyl-4-hydroxybutyric acid ethyl ester. A mixture of 20 mmole of 4-trifluoromethyl-4-hydroxybutyric acid ethyl ester, 22 mmole of triphenylphosphine, 20 mmole of phthalimide and 22 mmole of diethyl azodicarboxylate in 60 ml of tetrahydrofuran is heated at reflux temperature under nitrogen for 24 hours. The solvent is evaporated under reduced pressure, and the residue chromatographed on silica gel to give 4-trifluoromethyl-4-phthalimidobutyric acid ethyl ester. A suspension of 30 mmole of 4-trifluoromethyl-4-phthalimidobutyric acid ethyl ester in 20 ml of concentrated HCl is heated at reflux temperature for 24 hours. The solid which separates on cooling is filtered, and the filtrate concentrated under reduced pressure. The residue is dissolved in the minimum quantity of water, and the pH of the solution adjusted to 5 by the addition of sodium hydroxide. Acetone is added, and the precipitated 4-amino-4-trifluoromethylbutyric acid collected by filtration.

reactant | 4-trifluoromethyl-4-phthalimidobutyric acid ethyl ester | 30 mmole | C(C)OC(CCC(N1C(C=2C(C1=O)=CC=CC2)=O)C(F)(F)F)=O | C15H14F3NO4
solvent | HCl | 20 ml | Cl | ClH
product | 4-Amino-4-trifluoromethylbutyric acid | NC(CCC(=O)O)C(F)(F)F | C5H8F3NO2
